US08133882B2
1.0 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde was dissolved in 20 ml of DMF, and 2.0 g of potassium carbonate and 2.8 ml of ethyl(diethoxyphosphoryl)acetate were added, followed by overnight stirring at 60° C. The resulting reaction mixture was cooled to room temperature, water was added, and then the insoluble materials were collected by filtration to obtain 1.2 g of ethyl (2E)-3-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]acrylate.

reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 1.0 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=O)=O)F | C21H25FN2O2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl(diethoxyphosphoryl)acetate | 2.8 ml | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]acrylate | 1.2 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)/C=C/C(=O)OCC)=O)F | C25H31FN2O3
